US07153854B2
To a mixture of ethyl 7-acetyl-8-oxononanoate (4.0 g) and magnesium chloride (1.27 g) in dichloromethane (70 ml) was added pyridine (2.15 ml) at 0° C. The mixture was stirred at 20° C. for 1 hour, then a solution of 4-cyanobenzoyl chloride (2.87 g) in dichloromethane (10 ml) was added. After stirring for 3 hours at 20° C., the mixture was partitioned between ether and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:5) to give ethyl 7-acetyl-7-(4-cyanobenzoyl)-8-oxononanoate (3.52 g) as an oil.

reactant | ethyl 7-acetyl-8-oxononanoate | 4.0 g | C(C)(=O)C(CCCCCC(=O)OCC)C(C)=O | C13H22O4
reactant | magnesium chloride | 1.27 g | [Cl-].[Mg+2].[Cl-]
reactant | pyridine | 2.15 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-cyanobenzoyl chloride | 2.87 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 7-acetyl-7-(4-cyanobenzoyl)-8-oxononanoate | 3.52 g | C(C)(=O)C(CCCCCC(=O)OCC)(C(C)=O)C(C1=CC=C(C=C1)C#N)=O | C21H25NO5
